US07737145B2
4-[4-(2-oxazolyl)phenoxy]benzaldehyde (10.2 g, 38.5 mmol) and methyl 4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate (9.9 g, 40.4 mmol, 1.05 equiv.) were dissolved in dichloroethane (200 mL). After 75 minutes, sodium triacetoxyborohydride (9.8 g, 46.1 mmol, 1.2 equiv.) was added. The reaction mixture was stirred overnight at ambient temperature. Then, 1N NaOH was added. The reaction mixture was separated and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with 0.5 M H2SO4, and MeOH was added to the mixture until the precipitated gummy solid dissolved. The layers were separated and the aqueous layer was cooled to −5 C. and saturated K2CO3 was added slowly enough to keep the temperature below 0 C. to prevent ester hydrolysis. Once the pH was 11, the solution was extracted with EtOAc (2×), and the combined EtOAc fractions were dried and concentrated to give 19.0 g (100%) of methyl 4-[[(1S,4S)-5-[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate as the free base, which was 98% pure by HPLC; 1H NMR (300 MHz, CDCl3) δ 8.02 (d, 2H), 8.02 (d, 2H), 7.69 (d, 1H), 7.47 (d, 2H), 7.40 (d, 2H), 7.22 (d, 1H), 7.08 (d, 2H), 7.05 (d, 2H), 3.92 (s, 3H), 3.84 (d, 1H), 3.78 (d, 1H), 3.77 (d, 1H), 3.71 (d, 1H), 3.35 (s, 1H), 3.31 (s, 1H), 2.89 (d, 1H), 2.88 (d, 1H), 2.71 (dd, 1H), 2.70 (dd, 1H), 1.79 (s, 2H) ppm.

reactant | 4-[4-(2-oxazolyl)phenoxy]benzaldehyde | 38.5 mmol, 10.2 g | O1C(=NC=C1)C1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C16H11NO3
reactant | methyl 4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate | 40.4 mmol, 9.9 g, 1.05 equiv. | [C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(C(=O)OC)C=C2 | C14H18N2O2
reactant | sodium triacetoxyborohydride | 46.1 mmol, 9.8 g, 1.2 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloroethane | 200 mL | ClC(C)Cl | C2H4Cl2
product | methyl 4-[[(1S,4S)-5-[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate | 19.0 g, 100% | O1C(=NC=C1)C1=CC=C(OC2=CC=C(C=C2)CN2[C@@H]3CN([C@H](C2)C3)CC3=CC=C(C(=O)OC)C=C3)C=C1 | C30H29N3O4
